US04705786
To a solution of 1.0 g of methyl 1,4-dihydro-6-dimethoxymethyl-3-[3-(N-benzyl-N-methylamino)methyl-1,2,4-oxadiazol-5-yl]-2-methyl-4-(3-nitrophenyl)pyridine-5-carboxylate in 15 ml of acetone was added 2 ml of 6N-hydrochloric acid. After stirring at room temperature for 3 hours, the reaction mixture was neutralized with sodium bicarbonate solution and then concentrated in vacuo. To the residue was added ethyl acetate and the resultant solution was washed with water, dried and evaporated in vacuo. The residue was chromatographed on silica gel using chloroform-methanol (50:1) as eluent to give 740 mg of methyl 1,4-dihydro-3-[3-(N-benzyl-N-methylamino)methyl-1,2,4-oxadiazol-5-yl]-6-formyl-2-methyl-4-(3-nitrophenyl)pyridine-5-carboxylate, IR νmaxneat cm-1 : 3350, 1700, 1680, 1640, 1600, 1520.

reactant | methyl 1,4-dihydro-6-dimethoxymethyl-3-[3-(N-benzyl-N-methylamino)methyl-1,2,4-oxadiazol-5-yl]-2-methyl-4-(3-nitrophenyl)pyridine-5-carboxylate | 1.0 g | COC(C1=C(C(C(=C(N1)C)C1=NC(=NO1)CN(C)CC1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC)OC | C28H31N5O7
reactant | hydrochloric acid | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetone | 15 ml | CC(=O)C | C3H6O
product | methyl 1,4-dihydro-3-[3-(N-benzyl-N-methylamino)methyl-1,2,4-oxadiazol-5-yl]-6-formyl-2-methyl-4-(3-nitrophenyl)pyridine-5-carboxylate | 740 mg | C(C1=CC=CC=C1)N(C)CC1=NOC(=N1)C1=C(NC(=C(C1C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC)C=O)C | C26H25N5O6
